** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment7/assign1a.sch
**.subckt assign1a
x1 VDD a b net1 cin s0 gnd sum
x2 VDD a b cin net1 gnd carry
x3 VDD net2 net3 net4 net1 s1 gnd sum
x4 VDD net2 net3 net1 net4 gnd carry
vdd VDD gnd 1.8
va a gnd 1.8
va1 b gnd 1.8
va2 cin gnd 1.8
va3 a1 gnd 1.8
va4 b1 gnd 1.8
x5 VDD a1 net3 gnd inv
x6 VDD b1 net2 gnd inv
**** begin user architecture code


.control
alter @va[pulse] = [ 1.8 0 10p 5p 5p ]
alter @va1[pulse] = [ 1.8 0 10p 5p 5p ]
alter @va2[pulse] = [ 0 1.8 10p 5p 5p ]
alter @va3[pulse] = [ 1.8 0 10p 5p 5p ]
alter @va4[pulse] = [ 1.8 0 10p 5p 5p ]

tran 1p 400p
meas tran delay_cin_net1 TRIG v(cin) VAL=0.9 RISE=1 TARG v(net1) VAL=0.9 FALL=1
meas tran delay_cin_s0 TRIG v(cin) VAL=0.9 RISE=1 TARG v(s0) VAL=0.9 CROSS=1
plot v(a) v(b) v(cin) v(s0)
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  sum.sym # of pins=7
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment7/sum.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment7/sum.sch
.subckt sum VDD a b coutbar cin sout GND
*.opin sout
*.ipin a
*.iopin VDD
*.iopin GND
*.ipin b
*.ipin coutbar
*.ipin cin
XM1 sout coutbar net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net1 b VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 sout coutbar net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 net1 a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 net1 cin VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 net3 a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 net2 b net3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM8 sout cin net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM9 net4 a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM10 net4 b GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM11 net4 cin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM12 sout cin net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM13 net6 b net5 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM14 net5 a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  carry.sym # of pins=6
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment7/carry.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment7/carry.sch
.subckt carry VDD a b cin cout GND
*.opin cout
*.ipin a
*.iopin VDD
*.iopin GND
*.ipin b
*.ipin cin
XM1 cout cin net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net1 b VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 net3 a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 cout cin net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 net1 a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 net2 a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 cout b net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM8 net3 b GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM9 cout a net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM10 net4 b GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment7/inv.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment7/inv.sch
.subckt inv VDD in out GND
*.ipin in
*.iopin GND
*.iopin VDD
*.opin out
XM3 out in GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 out in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL gnd
.end
